US07319104B2
4-{2-[(4-Ethylbenzyl)(5-ethylpyrimidin-2-yl)amino]ethyl}-2-methylphenol
Similarly prepared from 5-ethyl-N-[2-(4-methoxy-3-methylphenyl)ethyl]pyrimidin-2-amine and 4-ethyl-benzyl bromide.

reactant | 5-ethyl-N-[2-(4-methoxy-3-methylphenyl)ethyl]pyrimidin-2-amine | C(C)C=1C=NC(=NC1)NCCC1=CC(=C(C=C1)OC)C | C16H21N3O
reactant | 4-ethyl-benzyl bromide | C(C)C1=CC=C(CBr)C=C1 | C9H11Br
product | 4-{2-[(4-Ethylbenzyl)(5-ethylpyrimidin-2-yl)amino]ethyl}-2-methylphenol | C(C)C1=CC=C(CN(CCC2=CC(=C(C=C2)O)C)C2=NC=C(C=N2)CC)C=C1 | C24H29N3O
